US04410520
A solution of 5-acetoxy-3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (0.7 g) in ethanol (50 ml) was hydrogenated at 42 psi for 24 hours at 70° using 10% palladium on charcoal (0.5 g) as catalyst. The catalyst was filtered off and the solvent removed under reduced pressure to give 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one which, without further purification was converted to 3-(S)-amino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one by the procedure described above; m.p. 99°-101°, [α]D =-297° (c=1 in ethanol).

reactant | 5-acetoxy-3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.7 g | C(C)(=O)OC1C[C@@H](C(N(C2=C1C=CC=C2)CC(=O)OCC)=O)NC(=O)OC(C)(C)C | C21H28N2O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC)=O | C19H26N2O5
